US07700655B2
(4) 5-Bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}-2-hydroxybenzamide (Compound No. 198)
2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}-benzamide (crude product, 84.3 mg) was dissolved in ethanol (3 mL). 2N Aqueous sodium hydroxide (0.1 mL) was added, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (54.1 mg, 36.3%; 2 steps) as a white powder.

reactant | 2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}-benzamide | 84.3 mg | C(C)(=O)OC1=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)N2CCCCC2)C=C(C=C1)Br | C21H26BrN3O3S
reactant | sodium hydroxide | 2N, 0.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-Bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}-2-hydroxybenzamide | 54.1 mg, 36.3% | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)N2CCCCC2)C1)O | C19H24BrN3O2S
